US09427475B2
Step D: (S)-5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxo-2-[5-oxo-5-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentanamido]pentanoic acid
To a solution of (S)-2-amino-5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxopentanoic acid (350 mg, 4.75 mmol) in DMF (5 mL) at 0° C. was added 2,5-dioxopyrrolidin-1-yl 5-oxo-5-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentanoate (216 mg, 0.517 mmol, prepared according to Example 4, ML-4, Step A, substituting 5-(benzyloxy)-5-oxopentanoic acid for 6-(benzyloxy)-6-oxohexanoic acid and TEA (0.2 mL, 1.435 mmol). After stirring at 0° C. for 2 hr, the reaction mixture was concentrated and the residue was purified by flash chromatography on C18 silica gel (150 g), eluting with 5-40% AcCN in H2O to give the title compound. UPLC Method B: calculated for C38H65N3O26 979.39, observed m/e: 980.31 [M+1]; Rt=0.92 min.

reactant | (S)-2-amino-5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxopentanoic acid | 4.75 mmol, 350 mg | N[C@H](C(=O)O)CCC(=O)NCCO[C@@H]1[C@@H](O)[C@@H](O[C@@H]2[C@@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O)[C@H](O1)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C25H44N2O19
reactant | 2,5-dioxopyrrolidin-1-yl 5-oxo-5-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentanoate | O=C(CCCC(=O)ON1C(CCC1=O)=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C17H26N2O10
reactant | 6-(benzyloxy)-6-oxohexanoic acid | C(C1=CC=CC=C1)OC(CCCCC(=O)O)=O | C13H16O4
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxo-2-[5-oxo-5-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentanamido]pentanoic acid | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@H](O[C@@H]([C@H]1O)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCCNC(CC[C@@H](C(=O)O)NC(CCCC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)=O)=O)O | C38H65N3O26
